US08012976B2
A suspension of 6-fluoro-4-nitroisobenzofuran-1(3H)-one (9.6 g, 48.7 mmol) and Pd/C (10%, 1 g) in EtOAc (300 mL) was stirred at 25° C. under 1 atmosphere of hydrogen for 12 hr. TLC (petroleum ether/EtOAc=2:1) showed the reaction was complete. The mixture was filtered, and the cake was washed with EtOAc (100 mL×3). The filtrate was concentrated to give 4-amino-6-fluoroisobenzofuran-1(3H)-one (7.5 g, yield 92%) as a white solid. 1H-NMR (400 MHz, CDCl3) δ (ppm): 3.85 (br s, 2H), 5.14-5.15 (d, 2H), 6.62-6.65 (dd, 1H), 6.98-7.00 (dd, 1H); LC-MS (ESI) m/z: 168 (M+1)+.

reactant | 6-fluoro-4-nitroisobenzofuran-1(3H)-one | 48.7 mmol, 9.6 g | FC1=CC(=C2COC(C2=C1)=O)[N+](=O)[O-] | C8H4FNO4
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 4-amino-6-fluoroisobenzofuran-1(3H)-one | 7.5 g, yield 92% | NC1=C2COC(C2=CC(=C1)F)=O | C8H6FNO2
